US05099017
N,N'-Bis(2,4-dimorpholinyl-1,3,5-triazin-6-yl)piperazine
All operations are carried out under N2. 0.5 mol of cyanuric chloride is suspended in a mixture of 2000 ml of water and 1000 g of ice, and 1.0 mol of morpholine and 0.5 mol of NaOH as a 10% strength by weight aqueous solution are simultaneously added dropwise. The addition is carried out sufficiently slowly that the pH is between 5 and 10. The mixture is subsequently stirred at 25° C. for a further 30 minutes, and a further 0.5 mol of NaOH as a 10% strength by weight aqueous solution is subsequently added dropwise. The reaction mixture is heated at 80° C. for 90 minutes and cooled to room temperature, and 0.28 mol of piperazine and 0.56 mol of NaOH as 10% strength by weight aqueous solutions are subsequently added dropwise. The mixture is subsequently refluxed for 12 hours and filtered at room temperature with suction, and the residue is washed with water and dried. A finely crystalline, white powder is obtained.

reactant | cyanuric chloride | 0.5 mol | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | morpholine | 1.0 mol | N1CCOCC1 | C4H9NO
reactant | NaOH | 0.5 mol | [OH-].[Na+]
reactant | NaOH | 0.5 mol | [OH-].[Na+]
reactant | piperazine | 0.28 mol | N1CCNCC1 | C4H10N2
reactant | NaOH | 0.56 mol | [OH-].[Na+]
solvent | water | 2000 ml | O | H2O
product | N,N'-Bis(2,4-dimorpholinyl-1,3,5-triazin-6-yl)piperazine | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C26H40N12O4
